US04235781
4-Methyl-7-hydroxycoumarin (2.00 g., 11.4 m mole) was refluxed with freshly-distilled 2,3-dibromopropene (2.72 g., 13.6 m mole), anhydrous potassium carbonate (3.15 g., 22.8 m mole), and acetone (80 ml.) for four hours. The reaction mixture was treated as described for the preparation of Example I, Part 1-A to obtain 4-methyl-7-(2'-bromoallyloxy) coumarin as an off-white solid (3.70 g.) that contained some excess 2,3-dibromopropene. Recrystallization of a portion (500 mg.) from ligroin (b.p. 100°-120° C.) gave needles (394 mg., 89% yield) of m.p. 109.5°-110.5° C. An analytical sample of m.p. 110°-111° C. was obtained by recrystallization from methanol.

reactant | 4-Methyl-7-hydroxycoumarin | 2.00 g | CC1=CC(OC2=CC(=CC=C12)O)=O | C10H8O3
reactant | 2,3-dibromopropene | 2.72 g | BrC(=C)CBr | C3H4Br2
reactant | potassium carbonate | 3.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 4-methyl-7-(2'-bromoallyloxy) coumarin | 89% yield | CC1=CC(OC2=CC(=CC=C12)OCC(=C)Br)=O | C13H11BrO3
